US07989442B2
e. Methyl (±)-(cis)-(7-bromo-8-fluoro-1,3,4,14b-tetrahydro-2H-dibenzo[b,f]pyrido[1,2-d][1,4]oxazepin-1-yl)carbamate
Borane-tetrahydofuran complex (1.0 M in THF, 970 mL, 970 mmol) was added dropwise to a stirred solution of methyl (±)-(cis)-(7-bromo-8-fluoro-1,3,4,14b-tetrahydro-4-oxo-2H-dibenzo[b,f]pyrido[1,2-d][1,4]oxazepin-1-yl)carbamate (105.2 g, 242 mmol) in THF (1 L). The resulting mixture was stirred at ambient temperature for 3 h. Subsequently, hydrochloric acid (1M) was added dropwise until evolution of gas ceased (±550 mL). The resulting mixture was stirred for 1 h and then diluted with ethyl acetate; the organic layer was washed with water and brine. After drying (MgSO4) the solvent was evaporated under reduced pressure to yield the crude title compound (98.5 g, 97%). (m/z)=421+423 (M+H)+.

reactant | Borane tetrahydofuran | 970 mmol, 1.0 M, 970 mL | B.O1CCCC1
reactant | methyl (±)-(cis)-(7-bromo-8-fluoro-1,3,4,14b-tetrahydro-4-oxo-2H-dibenzo[b,f]pyrido[1,2-d][1,4]oxazepin-1-yl)carbamate | 242 mmol, 105.2 g | BrC1=CC2=C(OC3=C([C@@H]4N2C(CC[C@H]4NC(OC)=O)=O)C=CC=C3)C=C1F | C19H16BrFN2O4
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | THF | 1 L | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Methyl (±)-(cis)-(7-bromo-8-fluoro-1,3,4,14b-tetrahydro-2H-dibenzo[b,f]pyrido[1,2-d][1,4]oxazepin-1-yl)carbamate | 98.5 g, 97% | BrC1=CC2=C(OC3=C([C@@H]4N2CCC[C@H]4NC(OC)=O)C=CC=C3)C=C1F | C19H18BrFN2O3
